US07585885B2
(S)-2-sec-Butylamino-6-propanesulfonyl-isonicotinic acid methyl ester
Add 2-chloro-6-propanesulfonyl-isonicotinic acid methyl ester (2.70 g, 9.71 mmol), toluene (40 mL), palladium acetate (218 mg, 0.97 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (605 mg, 0.97 mmol), cesium carbonate (4.75 g, 14.6 mmol), and (S)-sec-butylamine (1.46 mL, 14.6 mmol) to a sealed vessel flushed with nitrogen. Heat and stir the sealed vessel at 90° C. overnight. Cool to room temperature, filter through a pad of filtering agent, concentrate and purify (silica gel chromatography, eluting with 20:80 to 30:70 ethyl acetate:hexanes) to give the title compound (2.47 g, 81%).

reactant | 2-chloro-6-propanesulfonyl-isonicotinic acid methyl ester | 9.71 mmol, 2.70 g | COC(C1=CC(=NC(=C1)S(=O)(=O)CCC)Cl)=O | C10H12ClNO4S
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.97 mmol, 605 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 14.6 mmol, 4.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-sec-butylamine | 14.6 mmol, 1.46 mL | [C@H](C)(CC)N | C4H11N
catalyst | palladium acetate | 0.97 mmol, 218 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-sec-Butylamino-6-propanesulfonyl-isonicotinic acid methyl ester | 2.47 g, 81% | COC(C1=CC(=NC(=C1)S(=O)(=O)CCC)N[C@@H](C)CC)=O | C14H22N2O4S
